US03932430
Step A: 3'-(p-chlorophenyl)-spiro[indan-2,2'-oxirane]-1-one
To a stirred solution of 2-bromo indanone and 5 g. of p-chloro-benzaldehyde in 20 ml of methanol under nitrogen is added at 5° to 10°C a solution of sodium methoxide in methanol (prepared by dissolving 1.15 g. of sodium in 50 ml of methanol). After 2 hours, 3'-(p-chlorophenyl)-spiro[indan-2,2'-oxirane]-1-one precipitates and is filtered off and recrystallized from methanol.

reactant | 2-bromo indanone | BrC1C(C2=CC=CC=C2C1)=O | C9H7BrO
reactant | p-chloro-benzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 50 ml, 1.15 g | CO | CH4O
product | 3'-(p-chlorophenyl)-spiro[indan-2,2'-oxirane]-1-one | ClC1=CC=C(C=C1)C1C2(O1)C(C1=CC=CC=C1C2)=O | C16H11ClO2
